*****************************************************************
* NXP PSMN5R5_30KL
*
* Polarity N-Channel
* Ratings 30V/5.80E-03OHMS/5A
*
* Date Created Sun Mar 20 05:18:54 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN5R5_30KL DRAIN GATE SOURCE

LD DRAIN 5 9e-10
RLD2 DRAIN 5 2.2619448
RLD1 5 4 0.00021
LG GATE 1 7.26405326934776e-10
RLG GATE 1 1.82565416883602
LS SOURCE 8 1.71843063601422e-09
RLS2 SOURCE 8 4.31888360143673
RLS1 8 7 0.00226843063601422

RDS 7 4 300000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00143063619797162 TC=0.0106757141987291,4.72543878417223e-05
RBD 9 4 0.00132347446970458 TC=0.0106757141987291,4.72543878417223e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 1.5236210417285e-09
RG 1 2 1.5413419710958

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2087
+ -10	1990
+ -5	1917
+ -4	1896
+ -3	1870
+ -2	1835
+ -1	1776
+ -0.5	1704
+ -0.2	1536
+ -0.1	1412
+ 0	1308
+ 0.1	1194.3
+ 0.2	1098
+ 0.5	890.1
+ 1	701.2
+ 2	533.2
+ 5	355
+ 10	249.5
+ 12	225.9
+ 15	201.992



.MODEL MINT NMOS(Vto=2.00993379346107 Kp=1.4118e+02 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=33.60 Ibv=2.50E-04 Rs=1E-6 Is=1.56506287063566e-12
+ N=1 M=0.55 VJ=0.5 Fc=0.5 Cjo=7.52e-10 Tt=2.422e-08)

.ENDS