*****************************************************************
* NXP PSMN9R0_30KL
*
* Polarity N-Channel
* Ratings 30V/9.00E-03OHMS/5A
*
* Date Created Sun Mar 20 05:38:52 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN9R0_30KL DRAIN GATE SOURCE

LD DRAIN 5 9e-10
RLD2 DRAIN 5 2.2619448
RLD1 5 4 0.00021
LG GATE 1 7.26405326934776e-10
RLG GATE 1 1.82565416883602
LS SOURCE 8 1.96580289041991e-09
RLS2 SOURCE 8 4.94059736201143
RLS1 8 7 0.00251580289041991

RDS 7 4 300000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00339358704962543 TC=0.00695341783239205,3.12122062992847e-05
RBD 9 4 0.00219037263170582 TC=0.00695341783239205,3.12122062992847e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 8.84529939145749e-10
RG 1 2 1.3313419710958

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	1273
+ -5	1260
+ -4	1263
+ -3	1267
+ -2	1063
+ -1	781
+ -0.5	600
+ -0.2	506
+ -0.1	478
+ 0	444
+ 0.1	401
+ 0.2	362
+ 0.5	277
+ 1	213
+ 2	171
+ 5	133
+ 10	112
+ 12	108
+ 15	104



.MODEL MINT NMOS(Vto=2.10489549124982 Kp=8.5546e+01 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=2000)

.MODEL DBD D(Bv=33.60 Ibv=2.50E-04 Rs=1E-6 Is=7.72300698001395e-13
+ N=1 M=0.61 VJ=0.61 Fc=0.5 Cjo=8.15e-10 Tt=2.035e-08)

.ENDS
