*****************************************************************
* NXP PSMN1R1_30PL
*
* Polarity N-Channel
* Ratings 30V/1.10E-03OHMS/25A
*
* Date Created Sun May 15 06:43:23 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R1_30PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.04498779724731e-09
RLS2 SOURCE 8 5.13961057116334
RLS1 8 7 0.000694987797247309

RDS 7 4 3000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 1.23726633437216e-06 TC=8.65646805745797,-0.0161521099788513
RBD 9 4 0.000407491380058399 TC=8.65646805745797,-0.0161521099788513
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.25024192208088e-08
RG 1 2 1.09784058573213

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	14691
+ -10	14677
+ -5	14587
+ -4	14551
+ -3	14380
+ -2	13000
+ -1	9545
+ -0.5	7524
+ -0.2	6339
+ -0.1	5936
+ 0	5533.5
+ 0.1	5009
+ 0.2	4537
+ 0.5	3493
+ 1	2671
+ 2	2095
+ 5	1598
+ 10	1335
+ 12	1283
+ 20	1169
+ 25	1125



.MODEL MINT NMOS(Vto=2.08533757211206 Kp=1.9002e+03 Nfs=230000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=33.60 Ibv=2.50E-04 Rs=1E-6 Is=1.61150760584462e-11
+ N=1 M=0.58 VJ=0.59 Fc=0.5 Cjo=1.0474e-08 Tt=6.7e-08)

.ENDS