*******************************************************************************
*****************************************************************
* NXP PSMN1R6_30PL
*
* Polarity N-Channel
* Ratings 30V/1.70E-03OHMS/25A
*
* Date Created Wed Feb 24 06:57:18 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R6_30PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.23798880079386e-09
RLS2 SOURCE 8 5.62467458934879
RLS1 8 7 0.000741811831116957

RDS 7 4 6000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.000202648505704022 TC=0.0492050224797596,-7.4198683361258e-05
RBD 9 4 8.86543839893839e-05 TC=0.0492050224797596,-7.4198683361258e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.1268e-08
RG 1 2 0.997840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	12045
+ -10	12005
+ -8	12008
+ -6	11998
+ -5	11925
+ -4	11945
+ -2	10123
+ -1	6997
+ -0.5	5581
+ -0.2	4651
+ -0.1	4366
+ 0	4040
+ 0.1	3705
+ 0.2	3375
+ 0.5	2691
+ 1	2143
+ 2	1730
+ 5	1315
+ 10	1078
+ 15	981
+ 20	926
+ 25	889



.MODEL MINT NMOS(Vto=2.14765926257693 Kp=1.4888e+03 Nfs=320000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=100)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=1.30378844461735e-11
+ N=1 M=0.700000000000001 VJ=0.5 Fc=0.5 Cjo=8.775e-09 Tt=6.4e-08)

.ENDS

*******************************************************************************
