*******************************************************************************
*****************************************************************
* NXP PSMN2R0_30PL
*
* Polarity N-Channel
* Ratings 30V/2.10E-03OHMS/25A
*
* Date Created Wed Feb 24 07:13:39 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R0_30PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.23798880079386e-09
RLS2 SOURCE 8 5.62467458934879
RLS1 8 7 0.000741811831116957

RDS 7 4 10000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.000453249420903736 TC=0.0263705683282302,-4.05496438554492e-05
RBD 9 4 0.000781358463046146 TC=0.0263705683282302,-4.05496438554492e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 6.038e-09
RG 1 2 0.797840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	7024
+ -8	6999
+ -6	6977
+ -5	6968
+ -4	6912
+ -2	6443
+ -1	4849
+ -0.5	3891
+ -0.2	3352
+ -0.1	3149
+ 0	3163.5
+ 0.1	2672
+ 0.2	2421
+ 0.5	1794
+ 1	1311
+ 2	1030
+ 5	793
+ 10	666
+ 12	643
+ 20	585
+ 25	565



.MODEL MINT NMOS(Vto=2.02612295371271 Kp=9.2938e+02 Nfs=230000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=100)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=4.59817423155663e-12
+ N=1 M=0.6 VJ=0.61 Fc=0.5 Cjo=4.512e-09 Tt=4.9e-08)

.ENDS

*******************************************************************************
