*******************************************************************************
*****************************************************************
* NXP PSMN4R3_30PL
*
* Polarity N-Channel
* Ratings 30V/4.30E-03OHMS/15A
*
* Date Created Mon Jun  8 23:30:43 2009
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R3_30PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.31887015786126e-09
RLS2 SOURCE 8 5.82795143938828
RLS1 8 7 0.000787717746675436

RDS 7 4 30000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00189637729498844 TC=0.0125324186623661,-2.02981014823949e-05
RBD 9 4 0.00121013057156564 TC=0.0125324186623661,-2.02981014823949e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 2.56854578754579e-09
RG 1 2 0.997840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	2457
+ -8	2462
+ -6	2457
+ -5	2457
+ -4	2429
+ -2	2229
+ -1	1638
+ -0.5	1283
+ -0.2	1089
+ -0.1	1024
+ 0	940.5
+ 0.1	857
+ 0.2	772
+ 0.5	583
+ 1	446
+ 2	360
+ 5	281
+ 10	236
+ 12	227
+ 15	219
+ 20	208
+ 25	201


.MODEL MINT NMOS(Vto=1.92 Kp=1.4e+02 Nfs=370000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 U0=600 Vmax=1000)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=1.56586194896414e-12
+ N=1 M=0.58 VJ=0.56 Fc=0.5 Cjo=1.646e-09 Tt=3.5e-08)

.ENDS



















*******************************************************************************
