*****************************************************************
* NXP PSMN2R0_60PS
*
* Polarity N-Channel
* Ratings 60V/2.20E-03OHMS/25A
*
* Date Created Sun May 15 03:53:35 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R0_60PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.04498779724731e-09
RLS2 SOURCE 8 5.13961057116334
RLS1 8 7 0.000694987797247309

RDS 7 4 6000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.000928961527096916 TC=0.0138267447710745,-3.48712176068913e-06
RBD 9 4 0.000356574873396723 TC=0.0138267447710745,-3.48712176068913e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 7.75594426055502e-09
RG 1 2 0.997840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	8694
+ -10	8737
+ -5	8525
+ -4	8216
+ -3	7485
+ -2	6278
+ -1	4777
+ -0.5	3566
+ -0.2	2805
+ -0.1	2545
+ 0	2409.5
+ 0.1	2202
+ 0.2	2040
+ 0.5	1794
+ 1	1563
+ 2	1262
+ 5	948
+ 10	814
+ 12	783
+ 20	699
+ 25	663
+ 30	635



.MODEL MINT NMOS(Vto=3.90054804826916 Kp=7.7164e+02 Nfs=610000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=67.60 Ibv=2.50E-04 Rs=1E-6 Is=7.95463053908584e-12
+ N=1 M=0.54 VJ=0.52 Fc=0.5 Cjo=5.351e-09 Tt=5.72e-08)

.ENDS
