*****************************************************************
* NXP PSMN013_30KL
*
* Polarity N-Channel
* Ratings 30V/1.30E-02OHMS/5A
*
* Date Created Sun Mar 20 03:52:19 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN013_30KL DRAIN GATE SOURCE

LD DRAIN 5 9e-10
RLD2 DRAIN 5 2.2619448
RLD1 5 4 0.00021
LG GATE 1 7.26405326934776e-10
RLG GATE 1 1.82565416883602
LS SOURCE 8 2.18225361302489e-09
RLS2 SOURCE 8 5.48459690251429
RLS1 8 7 0.00273225361302489

RDS 7 4 30000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00563579434990749 TC=0.00578026562580374,2.68948333086752e-05
RBD 9 4 0.00333595701580701 TC=0.00578026562580374,2.68948333086752e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 5.44609212497903e-10
RG 1 2 1.3213419710958

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	744.2
+ -10	759.7
+ -5	746.8
+ -4	740.5
+ -3	731.6
+ -2	718.2
+ -1	693.2
+ -0.5	662.6
+ -0.2	585.7
+ -0.1	536.6
+ 0	496.55
+ 0.1	455.2
+ 0.2	419.8
+ 0.5	344.7
+ 1	275.8
+ 2	209.6
+ 5	137.6
+ 10	94.9
+ 12	85.6
+ 20	66.0
+ 25	60.5



.MODEL MINT NMOS(Vto=1.90809094041727 Kp=5.0899e+01 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=33.60 Ibv=2.50E-04 Rs=1E-6 Is=6.75541237866297e-13
+ N=1 M=0.46 VJ=0.5 Fc=0.5 Cjo=2.511e-10 Tt=1.876e-08)

.ENDS